US08278302B2
N-Methyl-5-nitro-isophthalamic acid ethyl ester
To a 2M solution of methylamine in THF (256 ml) at −20° C. was added a pre-cooled solution of 3-chlorocarbonyl-5-nitro-benzoic acid ethyl ester (60 g) in THF (500 ml) dropwise. This was stirred for 20 min and then filtered. The filtrate was concentrated in vacuum and the solid recrystallised from diethyl ether to give the title compound (22.5 g) as a solid. An oxalyl chloride solution in DCM (63 ml, 2M), was added with DMF (5 ml). The reaction was stirred for 2 h and then concentrated in vacuum. The residue was triturated with toluene and again concentrated in vacuum leaving the title compound (60 g). Rt=1.53 min (method D).

reactant | methylamine | CN | CH5N
reactant | 3-chlorocarbonyl-5-nitro-benzoic acid ethyl ester | 60 g | C(C)OC(C1=CC(=CC(=C1)[N+](=O)[O-])C(=O)Cl)=O | C10H8ClNO5
solvent | THF | 256 ml | C1CCOC1 | C4H8O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | N-Methyl-5-nitro-isophthalamic acid ethyl ester | 22.5 g | C(C)OC(C1=CC(C(=O)NC)=CC(=C1)[N+](=O)[O-])=O | C11H12N2O5
